US04783453
A solution of p-nitrobenzyl (3R,5R,6S)-6[(R)-1-hydroxyethyl]-2-oxocarbapenam-3-carboxylate (348 mg, 1 mmol) in anhydrous acetonitrile (10 ml) is cooled to 0° C. under a nitrogen atmosphere and treated with N,N-diisopropylethylamine (192 μl, 1.1 mmol) and freshly recrystallized p-toluenesulfonic anhydride (343 mg, 1.05 mmol). The resulting solution is stirred at 0° C. for 1 hour to provide p-nitrobenzyl (5R,6S)-6-[(R)-1-hydroxyethyl]-2-(p-toluenesulfonyloxy)carbapen-2-em-3-carboxylate.

reactant | p-nitrobenzyl (3R,5R,6S)-6[(R)-1-hydroxyethyl]-2-oxocarbapenam-3-carboxylate | 1 mmol, 348 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | N,N-diisopropylethylamine | 1.1 mmol, 192 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | p-toluenesulfonic anhydride | 1.05 mmol, 343 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | p-nitrobenzyl (5R,6S)-6-[(R)-1-hydroxyethyl]-2-(p-toluenesulfonyloxy)carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)OS(=O)(=O)C2=CC=C(C=C2)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H22N2O9S
